US06162819
1-Benzyl-3-(5-carbamoyl-2-furyl)indazole:
With simultaneous introduction of ammonia, a solution of 0.8 g (2.4 mmol) of 1-benzyl-3-(5-chlorocarbonyl-2-furyl)indazole in 10 ml of THF was added dropwise to 25 ml of a saturated solution of ammonia in THF. After 45 min, the mixture was poured into ice-water and extracted with ethyl acetate, and the organic phase was washed with 1N hydrochloric acid, dried and concentrated using a rotary evaporator. The crude product was recrystallized from isopropanol. This gave 0.29 g (38%) of the title compound. m.p.: 259° C.

reactant | ammonia | N | H3N
reactant | 1-benzyl-3-(5-chlorocarbonyl-2-furyl)indazole | 2.4 mmol, 0.8 g | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)Cl | C19H13ClN2O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-3-(5-carbamoyl-2-furyl)indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(N)=O | C19H15N3O2
